US07601728B2
N-(1-{(3R)-3-[(tert-Butoxycarbonyl)amino]-piperidin-1-yl}-2,2-dicyanovinyl)glycine ethyl ester
Glycine methyl ester hydrochloride (3.3 g) and triethylamine (3.7 ml) were added to a solution of tert-butyl {(3R)-1-[2,2-dicyano-1-(methylthio)vinyl]-piperidin-3-yl}carbamate (1.3 g) in ethanol (30 ml), and the resulting mixture was heated under reflux. After 4 hours, triethylamine (1.5 ml) was added thereto, followed by heating under reflux for another 7 hours. After the reaction solution was cooled to 25° C., a saturated aqueous sodium hydrogencarbonate solution was added thereto, followed by extraction with chloroform. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate and then filtered and the filtrate was concentrated under reduced pressure. The resulting residue was purified by a silica gel column chromatography (hexane/ethyl acetate=3/1 to 1/1) to obtain the title compound (360 mg) as a white amorphous substance.

reactant | Glycine methyl ester hydrochloride | 3.3 g | Cl.COC(CN)=O
reactant | triethylamine | 3.7 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl {(3R)-1-[2,2-dicyano-1-(methylthio)vinyl]-piperidin-3-yl}carbamate | 1.3 g | C(#N)C(=C(SC)N1C[C@@H](CCC1)NC(OC(C)(C)C)=O)C#N | C15H22N4O2S
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | N-(1-{(3R)-3-[(tert-Butoxycarbonyl)amino]-piperidin-1-yl}-2,2-dicyanovinyl)glycine ethyl ester | 360 mg | C(C)OC(CNC(=C(C#N)C#N)N1C[C@@H](CCC1)NC(=O)OC(C)(C)C)=O | C18H27N5O4
